US06673799B1
2-Isopropylisonicotinic acid
A 7.5 ml portion of 8 N aqueous potassium hydroxide was added to 50 ml of ethanol solution containing 2.7 g of 4-cyano-2-isopropylpyridine, and the mixture was heated under reflux for 12 hours. After cooling to room temperature, the reaction mixture was mixed with water and diethyl ether and the aqueous layer was separated. The aqueous layer was adjusted to an acidic pH of 3 using 4 N hydrochloric acid and then saturated with sodium chloride. This was extracted with a mixed solvent of ethyl acetate-isopropanol (5:1, v/v) and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to obtain 3.1 g of the title compound.

reactant | potassium hydroxide | 8 N | [OH-].[K+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | 4-cyano-2-isopropylpyridine | 2.7 g | C(#N)C1=CC(=NC=C1)C(C)C | C9H10N2
reactant | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Isopropylisonicotinic acid | 3.1 g | C(C)(C)C=1C=C(C(=O)O)C=CN1 | C9H11NO2
